US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-methoxyphenyl)-4,5,6,7-tetrahydroindole ##SPC45##
A mixture of 24.6 g. (0.1 mole) of 2-(p-methoxyphenacyl)cyclohexanone, 15.3 g. (0.1 mole) of 5-aminosalicylic acid, and 100 ml. of glacial acetic acid was heated under reflux for 3 hours, cooled and filtered. The filter cake was washed with water, dried and recrystallized from ethanol to provide 14.4 g. (40%) of crystals, m.p. 219°-221°.

reactant | 2-(p-methoxyphenacyl)cyclohexanone | 0.1 mole | COC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C15H18O3
reactant | 5-aminosalicylic acid | 0.1 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-methoxyphenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=C(C=C1)OC | C22H21NO4
